US05157041
2.576 g of N-tert.butyl-2(S)-piperidinecarboxamide and 4.158 g of 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane in 70 ml of ethanol was heated at reflux for 16 hours. The solvent was removed by evaporation and the residue was dissolved in 100 ml of diethyl ether and treated with 10 g of activated magnesium silicate. The solvent was then removed by evaporation and there were obtained 6.16 g of 1-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide as a colourless glass; MS: m/e 482 [M+H]+.

reactant | N-tert.butyl-2(S)-piperidinecarboxamide | 2.576 g | C(C)(C)(C)NC(=O)[C@H]1NCCCC1 | C10H20N2O
reactant | 3(S)-(benzyloxyformamido)-1,2(S)-epoxy-4-phenylbutane | 4.158 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@H]1CO1)CC1=CC=CC=C1 | C18H19NO3
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1-[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide | 6.16 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CN1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C28H39N3O4
